US07488740B2
DMF (3500 mL), H2O (35 mL), 2-chloro-3-trifluoromethyl-pyridine (250 g; 1.38 mol), Zn(CN)2 (97 g; 0.83 mol), Pd2(dba)3 (19.0 g) and DPPF (22.4 g) are combined in a 22.0 liter flask. The reaction mixture is degassed by bubbling N2 into the reaction mixture over a period of 30 minutes. The reaction mixture is then heated to 120° C. for 4.5 hours, at which time an additional 9.5 g of Pd2(dba)3 and 11.2 g of DPPF is added to the reaction mixture. The reaction mixture is then heated at 120° C. for another 2 hours, and then allowed to cool to room temperature overnight. The resulting dark brown solution is cooled in ice and cold water. A mixture of saturated NH4Cl (1380 mL), 28%NH4OH (345 mL and water (1380 mL) is then added and the mixture is stirred in an ice bath for 1 hour. To this stirred mixture is added 3.0 liters of EtOAc, and the mixture is stirred for 15 minutes. The EtOAc layer is separated from the mixture by suction the extraction is repeated another four times with EtOAc (2×2 liters, 2×1.5 liters). The combined EtOAc extracts are filtered through one inch of celite and dried with Na2SO4 (500 g). The dried extract is filtered and concentrated in vacuum at 40° C. initially to a volume of three liters. The mixture is concentrated at 80° C. under vacuum to afford a dark brown oil, which is distilled under vacuum to give 2-cyano-3-trifluoromethylpyridine.

reactant | DMF | 3500 mL | CN(C)C=O | C3H7NO
reactant | 2-chloro-3-trifluoromethyl-pyridine | 1.38 mol, 250 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
catalyst | Zn(CN)2 | 0.83 mol, 97 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 19.0 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 22.4 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | H2O | 35 mL | O | H2O
product | 2-cyano-3-trifluoromethylpyridine | C(#N)C1=NC=CC=C1C(F)(F)F | C7H3F3N2
